US07935395B2
The thus obtained 6-hydroxy-2-naphthyl benzoate was dispersed in acetic acid, nitric acid was added dropwise to the dispersion while keeping it at 15° C., and water was further added thereto, followed by stirring. The thus obtained deposit was recrystallized from ethanol/acetic acid to obtain 6-hydroxy-5-nitro-2-naphthyl benzoate.

reactant | 6-hydroxy-2-naphthyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC2=CC=C(C=C2C=C1)O | C17H12O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-hydroxy-5-nitro-2-naphthyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC2=CC=C(C(=C2C=C1)[N+](=O)[O-])O | C17H11NO5
